US09233956B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-5-fluoro-2-methylbenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine (0.082 g, 0.239 mmol) and 2-methyl 5-fluorobenzenesulfonyl chloride (0.055 g, 0.263 mmol) the title compound was obtained (57 mg, 0.11 mmol, 46% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.48 (s, 1H), 7.91 (d, J=5.3 Hz, 1H), 7.44 (dd, J=8.8, 2.6 Hz, 1H), 7.29-7.42 (m, 3H) 7.16-7.29 (m, 2H), 6.71 (s, 2H), 5.73 (d, J=5.1 Hz, 1H), 2.49 (s, 3H), 1.35 (s, 9H). MS (ES+): 516 [M+H]+.

reactant | 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine | 0.239 mmol, 0.082 g | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C(C)(C)C)F | C17H18FN5S
reactant | 2-methyl 5-fluorobenzenesulfonyl chloride | 0.263 mmol, 0.055 g | CC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C7H6ClFO2S
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-5-fluoro-2-methylbenzenesulfonamide | 46% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)C)F | C24H23F2N5O2S2
